US09447090B2
A suspension of 3.0 g of methyl 3-formylbenzoate, 2.5 g of (S)-2-methyl-2-propanesulfinamide, 250 mg of pyridinium paratoluene sulfonate, and 11 g of magnesium sulfate in 50 ml of dichloromethane was stirred overnight. The reaction mixture was filtered over Celite and the solvent was then evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography to obtain 3.0 g of methyl 3-[(E)-{[(S)-tert-butylsulfinyl]imino}methyl]benzoate.

reactant | methyl 3-formylbenzoate | 3.0 g | C(=O)C=1C=C(C(=O)OC)C=CC1 | C9H8O3
reactant | (S)-2-methyl-2-propanesulfinamide | 2.5 g | CC(C)(C)[S@](=O)N | C4H11NOS
reactant | magnesium sulfate | 11 g | S(=O)(=O)([O-])[O-].[Mg+2]
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
catalyst | pyridinium paratoluene sulfonate | 250 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
product | methyl 3-[(E)-{[(S)-tert-butylsulfinyl]imino}methyl]benzoate | 3.0 g | C(C)(C)(C)[S@](=O)\N=C\C=1C=C(C(=O)OC)C=CC1 | C13H17NO3S
